Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Ectopic pregnancy

 
Major Surgical or Invasive Procedure:
Laparoscopic left salpingectomy for ruptured left ectopic 
pregnancy 
laparotomy for sigmoid serosal repair

 
History of Present Illness:
Patient is a ___ yo G3 P0 with known ectopic pregnancy sent to 
gyn triage from Dr ___ office with rising HCG, 
persistent abdominal pain and bleeding. She was diagnosed in the 
ED ___ with Left adnexal mass suspicious for ectopic when she 
presented with bleeding and pain. She was treated with 
Methotrexate and at time of presentation was on day 7. Neither 
bleeding nor pain had improved since then but it had not 
worsened. On day of presentation HCG was 698 up from 398 on day 
1.  She was found to have abdominal tenderness with rebound in 
the office and was sent to triage for further management. 
She denied lightheadedness, n/v, palpitations, pre-syncope.

 
Past Medical History:
GYNhx:
- LMP uncertain ___ or ___
- denies h/o abnl pap
- denies h/o STI
- denies past contraception use

OBhx:
- SAB at 6 and 7 wks, no D&C for either.
- Diagnosed with a thrombophilia for which she takes ASA

PMH: Depression
PSH:Wisdom teeth

 
Social History:
Married.  Husband at bedside.  Denies T/E/D.

 
Physical Exam:
AVSS

NAD
RRR
CTAB
Abd: soft, ATTP, ND, no rebound, no guarding
Incisions: C/D/I
Ext: no calf tenderness
 
Pertinent Results:
___ 09:15AM BLOOD HCG-698
___ 06:55PM BLOOD Plt ___
___ 06:55PM BLOOD WBC-4.8 RBC-3.91* Hgb-12.2 Hct-34.2* 
MCV-88 MCH-31.3 MCHC-35.7* RDW-13.3 Plt ___
 
Brief Hospital Course:
The patient underwent immediate laparoscopy for her known 
ruptured ectopic pregnancy.  During left salpingectomy, there 
was a serosal tear of the sigmoid bowel.  General surgery was 
called into for an intra-operative consult to repair the tear.  
For the repair, the operation was converted to a laparotomy. The 
sigmoid serosal injury was repaired without incident by General 
Surgery.  

Post-operatively, patient's course was uneventful.  Her diet was 
advanced gradually to regularly, her pain was well controlled 
with PO pain meds, and she was able to carry out activities of 
daily living independently.  Pt was discharged to home in stable 
condition on post-operative day number 3.
 
Medications on Admission:
ASA 81mg daily, Zanax prn
 
Discharge Medications:
1. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed.
Disp:*40 Tablet(s)* Refills:*0*
2. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4-6H () as needed.
Disp:*30 Tablet(s)* Refills:*0*
3. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left ectopic pregnancy

 
Discharge Condition:
good

 
Discharge Instructions:
Take all medications as prescribed.  
Do not drive for 2 weeks or while taking narcotics.    
Call if you have increasing abdominal pain, fever of 100.4 or 
higher, redness around or drainage from your incision, 
persistent nausea or vomiting, or any other symptoms that worry 
you.  
Nothing in vagina (no intercourse, tampons) for 6 weeks.
No heavy lifting (more than a jug of milk) for 6 weeks.
 
Followup Instructions:
___